US04892576
(a) N-(2,6-Difluorophenyl)-4-methoxycarbonyl-5-(1-methoxyethylidenamino)pyrazole-3-sulphonamide
5.0 g (15mmol) 5-amino-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide was heated under reflux with 50 ml acetonitrile, 2.1 ml (17.5 mmol) triethyl orthoacetate and 3 drops acetic acid for 8 hours. The undissolved residue was filtered and the filtrate concentrated. The residue was chromatographed with hexane/ethyl acetate over silica gel and recrystallised from ether.

reactant | 5-amino-N-(2,6-difluorophenyl)-4-methoxycarbonylpyrazole-3-sulphonamide | 15mmol, 5.0 g | NC1=C(C(=NN1)S(=O)(=O)NC1=C(C=CC=C1F)F)C(=O)OC | C11H10F2N4O4S
reactant | triethyl orthoacetate | 17.5 mmol, 2.1 ml | C(C)(OCC)(OCC)OCC | C8H18O3
catalyst | acetic acid | 3 drops | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-(2,6-Difluorophenyl)-4-methoxycarbonyl-5-(1-methoxyethylidenamino)pyrazole-3-sulphonamide | FC1=C(C(=CC=C1)F)NS(=O)(=O)C1=NNC(=C1C(=O)OC)N=C(C)OC | C14H14F2N4O5S
